US08541575B2
Preparation of 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole
To a cooled (−78° C.), stirred solution of 1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole (prepared as described in the literature: J. Med. Chem. 2004, 47, 2995-3008 and JOC 2008, 73, 4309-4312) (11.8 g, 78 mmol) in anhydrous THF (200 mL), 2.5 M n-BuLi in n-hexane (40 mL, 100 mmol) was slowly added, keeping T<−70° C. After addition the mixture was stirred at −78° C. for 1 h, then triisopropyl borate (23 mL, 100 mmol) was added dropwise, keeping T<−70° C. After addition the mixture was let to reach room temperature in about 2 h, then a solution of 2,3-dimethyl-2,3-butandiol (12.5 g, 105 mmol) in anhydrous THF (30 mL) was added, followed after 10 min by glacial acetic acid (6 mL, 100 mmol). The colorless jelly precipitate was filtered on a thick celite pad and washed thoroughly with diethyl ether. The filtrate was concentrated to yield a colorless oil that crystallized upon addition of n-heptane. The title compound was obtained as colorless crystalline powder (14.7 g, 53%).

reactant | 1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole | O1C(CCCC1)N1N=CC=C1 | C8H12N2O
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | n-hexane | 100 mmol, 40 mL | CCCCCC | C6H14
reactant | triisopropyl borate | 100 mmol, 23 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | 2,3-dimethyl-2,3-butandiol | 105 mmol, 12.5 g | CC(C)(C(C)(O)C)O | C6H14O2
reactant | acetic acid | 100 mmol, 6 mL | C(C)(=O)O | C2H4O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | O1C(CCCC1)N1N=CC=C1B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
